### PR TITLE
feat(FieldTheory): implement Artin-Schreier theorem

### PR DESCRIPTION
**Pull request by kedlaya**
Implement the theorem of Artin-Schreier that a field with a finite algebraically closed extension is either algebraically closed or real closed. Depends on Artin-Schreier extensions of fields of characteristic p (#43947).

- [ ] depends on: #43947

### CODE REVIEW

**Comment by SnirBroshi** [comment]
Hello, can you disclose any AI usage per the contribution guidelines (linked above)?

**Comment by kedlaya** [comment]
> Hello, can you disclose any AI usage per the contribution guidelines (linked above)?

none

File: Mathlib/Algebra/Polynomial/FieldDivision.lean [hunk 1]
```diff
@@ -708,6 +717,26 @@ protected theorem mem_normalizedFactors_iff [DecidableEq R] (hq : q ≠ 0) :
   · simpa [hp] using zero_notMem_normalizedFactors _
   · rw [mem_normalizedFactors_iff' hq, normalize_eq_self_iff_monic hp]
 
+/-- If every monic irreducible factor of a polynomial f has natDegree divisible by n,
+  then so does f itself. -/
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean]:
```suggestion
/-- If every monic irreducible factor of a polynomial `f` has `natDegree` divisible by `n`,
  then so does `f` itself. -/
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 2]
```diff
@@ -0,0 +1,210 @@
...
+section Lemmas
+
+open IntermediateField Module Nat Polynomial
+
+variable {F : Type u} {K : Type u} [Field F] [Field K] [Algebra F K] [Hac : IsAlgClosed K]
+
+-- All of these lemmas are easy corollaries of the main theorem.
+private
+/- The degree of any irreducible polynomial divides the degree of the algebraic closure .-/
+lemma finrank_divides {f : F[X]} (h : Irreducible f) : f.natDegree ∣ finrank F K :=
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean]:
```suggestion
lemma natDegree_dvd_finrank {f : F[X]} (h : Irreducible f) : f.natDegree ∣ finrank F K :=
```
It also seems to me that `K` could be an explicit var, because you have to spell it out in 1 of the 2 use case.

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 3]
```diff
@@ -0,0 +1,210 @@
...
+  h.natDegree_dvd_finrank (Hac.splits _)
+
+/- If a field admits an algebraically closed extension of degree dividing a prime p, any polynomial
+   either has a root or has all irreducible divisors of degree p and degree divisible by p. -/
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean]:
```suggestion
/- If a field admits an algebraically closed extension of degree dividing a prime `p`, any polynomial
   either has a root or has all irreducible divisors of degree `p` and degree divisible by `p`. -/
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 4]
```diff
@@ -0,0 +1,210 @@
...
+        rw [←hx, frobenius_def, ←pow_mul, map_pow, algebraMap_elemReduct_eq' E p]
+        ring
+      exact toPerfectField E p
+    · have := ringExpChar.of_eq h
+      have := charZero_of_expChar_one' E
+      exact PerfectField.ofCharZero
+  exact perfectField_of_isSeparable_of_perfectField_top F E
+
+/- If a field admits an extension of prime degree p which is algebraically closed, then
+   its characteristic cannot equal p. -/
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean]:
```suggestion
/- If a field admits an extension of prime degree `p` which is algebraically closed, then
   its characteristic cannot equal `p`. -/
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 5]
```diff
@@ -0,0 +1,210 @@
...
+  have h : IsGalois F K := inferInstance
+  by_contra
+  obtain ⟨a, x, ha⟩ := ((isCyclic_charP_tfae hp rfl).out 0 4).mp h
+  have h := irreducible_artinSchreierPoly_tower hp rfl a x ha
+  have h := (degree_eq_iff_natDegree_eq_of_pos one_pos).mp (Hac.degree_eq_one_of_irreducible K h)
+  rw [(artinSchreierPoly_isMonicOfDegree _ hp.one_lt).1] at h
+  simp_all [Nat.not_prime_one]
+
+/- If a and b belong to a field which admits an algebraically closed quadratic extension,
+   then one of a^2+b or -b is a square. -/
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean]:
```suggestion
/- If `a` and `b` belong to a field which admits an algebraically closed quadratic extension,
   then one of `a^2+b` or `-b` is a square. -/
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 6]
```diff
@@ -0,0 +1,210 @@
...
+      exact hm'
+    by_cases f₁ = 0
+    · right
+      use f₀ + a
+      grind only
+    · left
+      use f₀
+      grind only
+
+/- A field containing a square root of -1 and admitting a finite extension which is algebraically
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean]:
```suggestion
/- A field containing a square root of `-1` and admitting a finite extension which is algebraically
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 7]
```diff
@@ -0,0 +1,210 @@
...
+    rcases divisor_by_finrank' _ hr.dvd hp with ⟨z, hz⟩ | hz
+    · have := neZero_iff.mpr ((CharP.charP_iff_prime_eq_zero hp).mpr.mt
+        (finite_alg_closure_prime hp hr))
+      exact ⟨z, (mem_primitiveRoots hp.pos).mpr (isRoot_cyclotomic_iff.mp hz)⟩
+    · absurd hz
+      simp [natDegree_cyclotomic, totient_prime hp, hp.one_lt]
+  have h := equivOfEq (bot_eq_top_iff_finrank_eq_one.mpr h)
+  exact Hac.of_ringEquiv _ _ (((botEquiv _ _).symm.trans h).trans topEquiv).symm
+
+/- A field in which -1 is not a square, but adjoining its square root gives an algebraic
```
Comment (jcommelin) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean]:
```suggestion
/- A field in which `-1` is not a square, but adjoining its square root gives an algebraic
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 8]
```diff
@@ -0,0 +1,207 @@
...
+open IntermediateField Module Nat Polynomial
+
+variable {F : Type u} {K : Type u} [Field F] [Field K] [Algebra F K] [Hac : IsAlgClosed K]
+
+-- All of these lemmas are easy corollaries of the main theorem.
+
+/- If a field admits an algebraically closed extension of degree dividing a prime `p`, any
+   polynomial either has a root or has all irreducible divisors of degree `p` and degree
+   divisible by `p`. -/
+lemma divisor_by_finrank {p : ℕ} (f : F[X]) (hr : finrank F K ∣ p) (hp : p.Prime) :
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:38]:
```suggestion
lemma exists_root_or_all_irreducible_divisors {p : ℕ} (f : F[X]) (hr : finrank F K ∣ p) (hp : p.Prime) :
```
Feel free to use a name that you prefer, but it should reflect the statement of the lemma somehow.

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 9]
```diff
@@ -0,0 +1,207 @@
...
+
+open IntermediateField Module Nat Polynomial
+
+variable {F : Type u} {K : Type u} [Field F] [Field K] [Algebra F K] [Hac : IsAlgClosed K]
+
+-- All of these lemmas are easy corollaries of the main theorem.
+
+/- If a field admits an algebraically closed extension of degree dividing a prime `p`, any
+   polynomial either has a root or has all irreducible divisors of degree `p` and degree
+   divisible by `p`. -/
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:37]:
```suggestion
   polynomial either has a root or has all irreducible divisors of degree `p`. -/
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 10]
```diff
@@ -0,0 +1,207 @@
...
+    (∃ x, f.IsRoot x) ∨ (∀ d, Irreducible d → d ∣ f → d.natDegree = p) := by
+  rw [or_iff_not_imp_right]
+  push Not
+  rintro ⟨d, h1, h2, h3⟩
+  have h := h1.natDegree_dvd_finrank (Hac.splits _)
+  have h := ((dvd_prime hp).mp (h.trans hr)).resolve_right h3
+  have ⟨x, hx⟩ := exists_root_of_natDegree_eq_one h
+  exact ⟨x, hx.dvd h2⟩
+
+lemma divisor_by_finrank' {p : ℕ} (f : F[X]) (hr : finrank F K ∣ p) (hp : p.Prime) :
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:48]:
```suggestion
lemma exists_root_or_all_irreducible_divisors' {p : ℕ} (f : F[X]) (hr : finrank F K ∣ p) (hp : p.Prime) :
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 11]
```diff
@@ -0,0 +1,207 @@
...
+    (∃ x, f.IsRoot x) ∨ p ∣ f.natDegree :=
+  (divisor_by_finrank f hr hp).imp_right (fun h ↦ dvd_natDegree_of_monic_of_irreducible
+    f (fun d _ h1 h2 ↦ (h d h1 h2).symm.dvd))
+
+/- A field admitting a finite extension which is algebraically closed is perfect. -/
+lemma finite_alg_closure_perfect [hf : FiniteDimensional F K] : PerfectField F := by
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:54]:
```suggestion
lemma perfect_of_finite_dimensional [hf : FiniteDimensional F K] : PerfectField F := by
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 12]
```diff
@@ -0,0 +1,207 @@
...
+        ring
+      exact toPerfectField E p
+    · have := ringExpChar.of_eq h
+      have := charZero_of_expChar_one' E
+      exact PerfectField.ofCharZero
+  exact perfectField_of_isSeparable_of_perfectField_top F E
+
+/- If a field admits an extension of prime degree `p` which is algebraically closed, then
+   its characteristic cannot equal `p`. -/
+lemma finite_alg_closure_prime {p : ℕ} (hp : p.Prime) (hr : finrank F K = p) : ¬CharP F p := by
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:77]:
```suggestion
lemma not_charP_of_finrank {p : ℕ} (hp : p.Prime) (hr : finrank F K = p) : ¬CharP F p := by
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 13]
```diff
@@ -0,0 +1,207 @@
...
+  by_contra
+  obtain ⟨a, x, ha⟩ := ((isCyclic_charP_tfae hp rfl).out 0 4).mp h
+  have h := irreducible_artinSchreierPoly_tower hp rfl a x ha
+  have h := (degree_eq_iff_natDegree_eq_of_pos one_pos).mp (Hac.degree_eq_one_of_irreducible K h)
+  rw [(artinSchreierPoly_isMonicOfDegree _ hp.one_lt).1] at h
+  simp_all [Nat.not_prime_one]
+
+/- If `a` and `b` belong to a field which admits an algebraically closed quadratic extension,
+   then one of `a^2 + b` or `-b` is a square. -/
+lemma quadratic_alg_closure (h : finrank F K ∣ 2) (a b : F) :
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:93]:
```suggestion
lemma isSquare_mul_add_or_isSquare_neg (h : finrank F K ∣ 2) (a b : F) :
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 14]
```diff
@@ -0,0 +1,207 @@
...
+    · right
+      use f₀ + a
+      grind only
+    · left
+      use f₀
+      grind only
+
+/- A field containing a square root of `-1` and admitting a finite extension which is algebraically
+   closed is itself algebraically closed. -/
+lemma finite_alg_closure_i [hf : FiniteDimensional F K] (hm : IsSquare (-1 : F)) :
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:130]:
```suggestion
lemma isAlgClosed_of_isSquare_neg_one [hf : FiniteDimensional F K] (hm : IsSquare (-1 : F)) :
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 15]
```diff
@@ -0,0 +1,207 @@
...
+      exact ⟨z, (mem_primitiveRoots hp.pos).mpr (isRoot_cyclotomic_iff.mp hz)⟩
+    · absurd hz
+      simp [natDegree_cyclotomic, totient_prime hp, hp.one_lt]
+  have h := equivOfEq (bot_eq_top_iff_finrank_eq_one.mpr h)
+  exact Hac.of_ringEquiv _ _ (((botEquiv _ _).symm.trans h).trans topEquiv).symm
+
+/- A field in which `-1` is not a square, but adjoining its square root gives an algebraic
+   closure, is real closed. -/
+omit Hac in
+lemma RealClosed_from_quadratic (h1 : ¬IsSquare (-1 : F)) (h2 : ∃ i : K, i ^ 2 = -1 ∧
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:168]:
```suggestion
lemma isRealClosed_of_isAlgClosed_adjoin (h1 : ¬IsSquare (-1 : F)) (h2 : ∃ i : K, i ^ 2 = -1 ∧
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 16]
```diff
@@ -0,0 +1,207 @@
...
+  let t := p - 1
+  subst hr
+  have hf := FiniteDimensional.of_finrank_pos hp.pos
+  have := finite_alg_closure_perfect (hf := hf)
+  have : IsAlgClosure F K := ⟨Hac, inferInstance⟩
+  have h : IsGalois F K := inferInstance
+  by_contra
+  obtain ⟨a, x, ha⟩ := ((isCyclic_charP_tfae hp rfl).out 0 4).mp h
+  have h := irreducible_artinSchreierPoly_tower hp rfl a x ha
+  have h := (degree_eq_iff_natDegree_eq_of_pos one_pos).mp (Hac.degree_eq_one_of_irreducible K h)
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:87]:
```suggestion
  have h := (degree_eq_iff_natDegree_eq_of_pos one_pos).mp (Hac.degree_eq_one_of_irreducible K (irreducible_artinSchreierPoly_tower hp rfl a x ha)
```

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 17]
```diff
@@ -0,0 +1,248 @@
...
+    Irreducible (X^p - X - C ((algebraMap F K) a * x ^ (p-1))) := by
+  open Field FiniteDimensional minpoly in
+  by_contra h
+  have hp1 := hp.one_lt
+  have := (Algebra.charP_iff F K p).mp ‹CharP F p›
+  have h := (artinSchreierPoly_irreducible_or_splits _).resolve_left h
+  have h_a {E} [Field E] (x : E) := artinSchreierPoly_isMonicOfDegree x hp1
+  have h_a1 := h_a ((algebraMap F K) a * x ^ (p-1))
+  have hs := (degree_eq_iff_natDegree_eq h_a1.ne_zero).mp.mt (h_a1.1.trans_ne hp.ne_zero)
+  have hy := eval_rootOfSplits h hs
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean:213]: I haven't tried golfing your proof, but it is unusual to need this many `have`s in succession.

**Review by ScottCarnahan — COMMENTED** [review]
These results would make a fine addition to mathlib. My main suggestion is to look over the [mathlib naming conventions page](https://leanprover-community.github.io/contribute/naming.html).

**Comment by artie2000** [comment]
I've thought a bit about how to formalise this stuff in the past. I'll review shortly. One immediate comment is that I think this would be better as two PRs: one for Artin-Schreier extensions / classification and one for the link to ACFs/RCFs.

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean (hunk 8 above)
Comment (kedlaya) [reply Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean]: I confess I find these naming conventions an utter mystery, so I mostly followed your suggestions.

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean (hunk 17 above)
Comment (kedlaya) [reply Mathlib/FieldTheory/ArtinSchreierExtension.lean]: They are all used but not all at once, I shuffled things around a bit in the last commit.

**Comment by kedlaya** [comment]
> I've thought a bit about how to formalise this stuff in the past. I'll review shortly. One immediate comment is that I think this would be better as two PRs: one for Artin-Schreier extensions / classification and one for the link to ACFs/RCFs.

Fair enough, see #43947 for the former (which I'll make a dependency for this).

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 18]
```diff
@@ -0,0 +1,210 @@
...
+public import Mathlib.RingTheory.Polynomial.Cyclotomic.Roots
+
+/-!
+
+# Artin-Schreier theorem
+
+This file proves the Artin-Schreier theorem `isAlgClosed_or_isRealClosed`:
+a field admitting a finite extension which is algebraically closed is either algebraically
+closed or real closed.
+
```
Comment (vihdzp) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:22]:
```suggestion
# Artin-Schreier theorem

This file proves the Artin-Schreier theorem `isAlgClosed_or_isRealClosed`:
a field admitting a finite extension which is algebraically closed is either algebraically
closed or real closed.
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 19]
```diff
@@ -0,0 +1,210 @@
...
+  · have := isSquare_mul_add_or_isSquare_neg hr 0
+    simp_all
+  · intro f _
+    exact (exists_root_or_all_irreducible_divisors' f hr prime_two).resolve_right (by grind)
+
+end Lemmas
+
+/- The Artin-Schreier theorem: a field admitting a finite extension which is algebraically closed
+   is either algebraically closed or real closed. -/
+public theorem isAlgClosed_or_isRealClosed (F : Type u) (K : Type u) [Field F] [Field K]
```
Comment (vihdzp) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:199]: We can have this version of the theorem, but I think this should itself be a corollary of the two theorems corresponding to each of the branches. If `-1` is a square then `F` is algebraically closed; if `-1` is not a square then `F` is real closed.

Comment (vihdzp) [reply Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:199]: Also, is your proof is able to recover the fact that the extension is of degree 1 or 2 in the respective cases?

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 20]
```diff
@@ -0,0 +1,210 @@
...
+lemma perfect_of_finite_dimensional_algebraic_closure [hf : FiniteDimensional F K] :
+    PerfectField F := by
+  open CharP FaithfulSMul IsPurelyInseparable PerfectRing in
+  let E := separableClosure F K
+  let p := ringExpChar E
+  have : PerfectField E := by
+    let n := exponent E K
+    rcases expChar_is_prime_or_one E p with h | h
+    · have : PerfectRing E p := by
+        refine ofSurjective E p (fun b ↦ ?_)
```
Comment (vihdzp) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:64]:
```suggestion
        refine ofSurjective E p fun b ↦ ?_
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 21]
```diff
@@ -0,0 +1,210 @@
...
+        obtain ⟨x, hx⟩ := Hac.exists_pow_nat_eq ((algebraMap E K) b) (expChar_pow_pos E p (n + 1))
```
Comment (vihdzp) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:65]:
```suggestion
        obtain ⟨x, hx⟩ := Hac.exists_pow_nat_eq (algebraMap E K b) (expChar_pow_pos E p (n + 1))
```

File: Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean [hunk 22]
```diff
@@ -0,0 +1,210 @@
...
+/- A field admitting a finite extension which is algebraically closed is perfect. -/
+lemma perfect_of_finite_dimensional_algebraic_closure [hf : FiniteDimensional F K] :
+    PerfectField F := by
+  open CharP FaithfulSMul IsPurelyInseparable PerfectRing in
+  let E := separableClosure F K
+  let p := ringExpChar E
+  have : PerfectField E := by
+    let n := exponent E K
+    rcases expChar_is_prime_or_one E p with h | h
+    · have : PerfectRing E p := by
```
Comment (vihdzp) [inline Mathlib/FieldTheory/IsRealClosed/ArtinSchreier.lean:63]: I think it might be a bit clearer to start the proof with `suffices PerfectRing E p from toPerfectField E p`. Saves you the indent.
